US07598257B2
Step 2. 3-Cyclopentylidene-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile
A solution of 3-cyclopentylidene-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile (0.030 g, 0.069 mmol) in DCM (3 mL) and TFA (2 mL) was stirred for 1 hour. The solvents were evaporated in vacuo and the product was stirred with sodium hydroxide, 50% aqueous solution (0.75 mL) and water (0.75 mL) and THF (1.5 mL) for 2 hours. The reaction mixture was neutralized by dropwise addition of concentrated HCl. The product was extracted with ethyl acetate. The combined organic extracts were dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue was purified by preparative-HPLC/MS (C18 column eluting with a gradient of ACN/H2O containing 0.15% NH4OH) to afford the desired product (7 mg, 33%).

reactant | 3-cyclopentylidene-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile | 0.069 mmol, 0.030 g | C1(CCCC1)=C(CC#N)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C23H30N6OSi
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-Cyclopentylidene-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile | 7 mg, 33% | C1(CCCC1)=C(CC#N)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C17H16N6
